Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N-:3]=[N+:4]=[O:5].[N:1](=[c:2]1[c:6]([H:9])[c:7]1[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],41.947021157688496
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[C:5]([O:6][H:11])[H:12].[O:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7],55.30683075545321
[C:1]([C:2]1=[C:7]([H:13])[C:5]([N:6]([H:11])[H:12])=[N+:3]1[O-:4])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],12.223902874588603
[C:1]([C:2](=[C:6]=[C:7]([C:3]([C:4]#[N:5])([H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],67.89089813250618
[C-:5]#[O+:6].[C:1]([H:7])([H:8])([H:9])[H:14].[C:2]([C:3]([H:11])([H:12])[H:13])(=[O:4])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],55.024988087322306
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:5]([C:4]([C:2]#[O+:3])([H:9])[H:10])=[N-:6])([H:7])[H:8],186.547875381161
[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],25.712922623467094
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C@@:4]1([H:12])[O:5][C:6]1([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],94.4976902426652
[C:1]([C@:2]1([H:11])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])[O:7]1)([H:8])([H:9])[H:10].[O:3][H:12]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],9.512206746112483
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@:5]([C:6][H:12])([H:10])[C:7]1([H:11])[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],0.02643756160880173
[C:3](=[O:4])([H:10])[H:11].[C:5](=[O:6])([H:7])[H:12].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],34.14873665535959
[C:1]([C:2]([C:3](=[O+:4][C-:5]([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([C:7]([H:19])([H:20])[H:21])([H:14])([H:17])[H:18]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],22.20842283106979
[C:1]([C@@:2]([C:3]#[N:4])([O+:6]=[C-:5][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],42.03252615127991
[N:1]#[C:2][C:3]1=[C:4]([H:8])[N:5]1[H:9].[N:6]#[N:7]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,10.308497463422704
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:7]1([H:17])[C@:3]([C:2][H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]1[H:16])([H:8])([H:9])[H:10],92.5588125495122
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9]>>[N:1]([C:2]1=[C:3]([H:10])[N:4]([H:11])/[C:5]1=[C:7](\[O:6][H:12])[H:13])([H:8])[H:9],145.621231615219
[N:1]([N:6]=[C:5]=[C:2]([C:3]([O:4][H:12])([H:10])[H:11])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],42.136113772230495
[N:1]1([H:7])[C@:2]([N:4]([C:5](=[O:6])[H:10])[H:9])([H:8])[O:3]1>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],39.553927990105194
[C:1]([O:2][O:7][C:6](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10],2.6602435457972007
[C:1]([C:2](=[C:3]=[C:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],63.5380331249279
[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C+:4][H:12])[O-:5])([H:6])([H:7])[H:8].[C:3]([H:9])([H:10])([H:11])[H:13],107.34009017027901
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N-:1]([C+:2]([O-:3])[C+:5]1[C:4]([H:9])([H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])[H:8],38.619517572599
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([C:5]#[C:6][H:10])([H:7])([H:8])[H:9].[O:2]=[C:3]=[O:4],69.2277342839971
[O:1]=[C:2]=[C:7]([O:6][C@@:5]1([H:11])[N:3]([H:8])[C:4]1([H:9])[H:10])[H:12]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],23.328002104403915
[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[N:4][H:10])([H:7])([H:8])[H:9].[N:5]#[N:6],39.832273373682
